US06228866B1
dl-4-Oxo-3-azabicyclo[4.2.0]octane
To a solution of 0.48 g of bicyclo[3.2.0]heptan-3-one in 8 ml of formic acid was added 725 mg of hydroxylamine-O-sulfonic acid, followed by heat-refluxing for 3 hours. The reaction mixture was allowed to cool, poured into ice water, neutralized with a 5N sodium hydroxide aqueous solution, and extracted with chloroform. The organic layer was washed, dried, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 48 mg of the title compound as a brown solid, which had the following physical properties.

reactant | bicyclo[3.2.0]heptan-3-one | 0.48 g | C12CC(CC2CC1)=O | C7H10O
reactant | hydroxylamine-O-sulfonic acid | 725 mg | NOS(=O)(=O)O | H3NO4S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | formic acid | 8 ml | C(=O)O | CH2O2
product | 4-Oxo-3-azabicyclo[4.2.0]octane | 48 mg | O=C1NCC2CCC2C1 | C7H11NO
